data/pmechdb/original/mc_train_fold0/raw/train.txt
CC1=C2CCC(=O)C2(CC[C:20]1([NH2+:21]C(C(C)C)C(=O)O)[OH:10])C.CC(C)C(C(=O)[O-])N>>CC1=C2CCC(=O)C2(CC[C:20]1=[OH+:10])C.CC(C)C(C(=O)O)[NH2:21].CC(C)C(C(=O)[O-])N 10=20;20,21=21
CCCCCCCCC=CCCCCCCCC(=O)[O-:10].C1CCC(CC1)[NH+:21]=[C:20]=NC2CCCCC2.CCCCCCCCC=CCCCCCCCC(=O)O.CN(C)C1=CC=NC=C1.C1=CC=C(C=C1)CO>>CCCCCCCCC=CCCCCCCCC(=O)[O:10][C:20](=NC1CCCCC1)[NH:21]C2CCCCC2.CCCCCCCCC=CCCCCCCCC(=O)O.CN(C)C1=CC=NC=C1.C1=CC=C(C=C1)CO 10=20;20,21=21
[H:20][OH2+:21].CC[C:10](=[C:11](C)CC)C>>[H:20][C:10](C)(CC)[C+:11](C)CC.[OH2:21] 10,11=10,20;20,21=21
CC1=CC=C(C=C1)[C:20](=[OH+:21])CCC(=[O:10])C2=CC=CC=C2.CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC1=CC=C(C=C1)[C:20]2(CCC(=[O+:10]2)C3=CC=CC=C3)[OH:21].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][OH2+:21].CC([NH:10]C)O>>[H:20][NH+:10](C)C(C)O.[OH2:21] 10=20;20,21=21
COC1=C(C2=C(CC3C4C2(CCN3CC=C)[CH:11]=[C:10]([CH+:20]C4)O)C=C1)O.CO.CS(=O)(=O)O.CS(=O)(=O)[O-]>>COC1=C(C2=C(CC3C4C2(CCN3CC=C)[CH+:11][C:10](=[CH:20]C4)O)C=C1)O.CO.CS(=O)(=O)O.CS(=O)(=O)[O-] 10,11=10,20
[H:20][N+:21](CC)(CC)CC.CCO.CC1=C(C2=C(N1)C=CC=C2)C3=CC(=O)CC4C3(N5CCCNC5=C4C(=O)C6=CC=C(C=C6)OC)[O-:10]>>[H:20][O:10]C12C(CC(=O)C=C1C3=C(NC4=C3C=CC=C4)C)C(=C5N2CCCN5)C(=O)C6=CC=C(C=C6)OC.CC[N:21](CC)CC.CCO 10=20;20,21=21
CC1=C[CH:11]=[CH:10]O1.[N+:20](=O)=[O:21]>>CC1=C[CH+:11][CH:10](O1)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
[H:20][O:21]C=O.CC12CCCC(C1CCC34C2CC(CC3)C(C4)(C)[OH:10])(C)C(=O)OC>>[H:20][OH+:10]C1(CC23CCC1CC2C4(CCCC(C4CC3)(C)C(=O)OC)C)C.C(=O)[O-:21] 10=20;20,21=21
[H:20][O+:21]1CCCOC1C2=CC(=C(C=C2Br)OC)OC.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>COC1=C(C=C(C(=C1)C2OCCC[O:21]2)Br)OC.[H:20][OH2+:10].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][OH+:21]C1(CCN2C1=CC3=C(C2=O)COC(=O)C3(CC)O)OCCO.C(=O)(C(F)(F)F)[O-:10].C1CCOC1.O>>[H:20][O:10]C(=O)C(F)(F)F.CCC1(C2=C(COC1=O)C(=O)N3CCC(C3=C2)([OH:21])OCCO)O.C1CCOC1.O 10=20;20,21=21
[B:20]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)CC=CC.CC(C)[Si](C(C)C)(C(C)C)OCC=[O:10]>>[B-:20]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)(CC=CC)[O+:10]=CCO[Si](C(C)C)(C(C)C)C(C)C 10=20,
C[C+:20]=O.[CH:11]1=[CH:10]OC=C1C(F)(F)F>>C[C:20](=O)[CH:10]1[CH+:11]C(=CO1)C(F)(F)F 10,11=10,20
[H:20][O:21]C(=O)C(F)(F)F.CC1(OC(C(O1)C(C(O)[S:10]C)OCC2=CC=CC=C2)C(C=O)OCC3=CC=CC=C3)C.CS>>[H:20][S+:10](C)C(C(C1C(OC(O1)(C)C)C(C=O)OCC2=CC=CC=C2)OCC3=CC=CC=C3)O.C(=O)(C(F)(F)F)[O-:21].CS 10=20;20,21=21
CCCCCCCCO[C:20](CCC)([OH2+:21])[OH:10].CCCCCCCCO.OS(=O)(=O)[O-]>>CCCCCCCCO[C:20](=[OH+:10])CCC.[OH2:21].CCCCCCCCO.OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][O:21]C(=O)C.C1CC(CCC1OC(=O)C2=CC=CC=C2)([NH+]3CCN(CC3)C4=CC=CC=C4)[O-:10]>>[H:20][O:10]C1(CCC(CC1)OC(=O)C2=CC=CC=C2)[NH+]3CCN(CC3)C4=CC=CC=C4.CC(=O)[O-:21] 10=20;20,21=21
[H:20][Br:21].C[C:10](=[CH:11]C1=CC=CC=C1)C>>[H:20][C:10](C)(C)[CH+:11]C1=CC=CC=C1.[Br-:21] 10,11=10,20;20,21=21
[H:20][N+:21](=CC1=C(C=CC=C1)C)CC(=O)OC.CC[N:10](CC)CC.O.[Cl-]>>[H:20][N+:10](CC)(CC)CC.CC1=C(C=CC=C1)C=[N:21]CC(=O)OC.O.[Cl-] 10=20;20,21=21
C1CC[OH+:21][CH:20](C1)[OH:10]>>C(CC[OH:21])C[CH:20]=[OH+:10] 10=20;20,21=21
CC(=O)C1=C2C=C[CH:11]=[CH:10]C2=CC=C1.[Br:20][Br:21]>>CC(=O)C1=C2C=C[CH+:11][CH:10](C2=CC=C1)[Br:20].[Br-:21] 10,11=10,20;20,21=21
[H:20][C:21]1(C=C(O[CH+:22]1)C(F)(F)F)Br.[Br-:10]>>[H:20][Br:10].C1=C(O[CH:22]=[C:21]1Br)C(F)(F)F 10=20;20,21=21,22
[H:20][OH2+:21].CCSC[CH:10]=[CH:11][N-:12]C>>[H:20][CH:10](CSCC)[CH:11]=[N:12]C.[OH2:21] 10,11=10,20;20,21=21;12=11
[H:20][N+:21](=C1C2=CC3=C(C=CC=C3)C=C2C1=O)C4=C(C=CC=C4)N.CC(=O)[O-:10].CO.O>>[H:20][O:10]C(=O)C.C1=CC2=C(C=C1)C=C3C(=C2)C(=[N:21]C4=C(C=CC=C4)N)C3=O.CO.O 10=20;20,21=21
CCC(=O)O[C:13]1=[C:12]([CH:11]=[CH:10]C=C1)Br.[Br:20][Br:21]>>CCC(=O)O[C+:13]1C=C[CH:10]([CH:11]=[C:12]1Br)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12,13=11,12
[H:20][O:21]C(=O)C.CC(=O)CCC(C)(NCCOCCO)[OH:10].C1=CC=CC=C1>>[H:20][OH+:10]C(C)(CCC(=O)C)NCCOCCO.CC(=O)[O-:21].C1=CC=CC=C1 10=20;20,21=21
CCOC(=O)NN(C(=O)OCC)[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CC(C)[OH:10].C=CCOC1=C(C(=CC=C1C(F)(F)F)COC2=CC=C(C=C2)C3=CC=C(C=C3)CC(=O)OCC=C)C(=O)[O-]>>CCOC(=O)NN(C(=O)OCC)[P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[OH+:10]C(C)C.C=CCOC1=C(C(=CC=C1C(F)(F)F)COC2=CC=C(C=C2)C3=CC=C(C=C3)CC(=O)OCC=C)C(=O)[O-] 10=20,
C[C:20](=[O:21])CC1=C(CCCC1=O)[NH2:10].CC(=O)O.O>>C[C:20]1(CC2=C([NH2+:10]1)CCCC2=O)[O-:21].CC(=O)O.O 10=20;20,21=21
CC(C)(C)[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.[Fe-](Br)(Br)(Br)[Br+:21][Br:20]>>CC(C)(C)[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[Br:20].[Fe-](Br)(Br)(Br)[Br:21] 10,11=10,20;20,21=21;12,13=11,12
C[C+:20](C)C.[Cl-:10]>>C[C:20](C)(C)[Cl:10] 10=20,
CC(C)COCC1C(C[CH:20]([O:10]1)[N+:21]2=CC(=CC=C2)C3CCCCC3)O>>CC(C)COCC1C(C[CH:20]=[O+:10]1)O.C1CCC(CC1)C2=CC=C[N:21]=C2 10=20;20,21=21
CC[OH+:21][C:20](C)(C)[O:10]CC>>CC[OH:21].CC[O+:10]=[C:20](C)C 10=20;20,21=21
C1CS[CH:20]=[S+:21]C1.[OH2:10]>>C1CS[CH:20]([S:21]C1)[OH2+:10] 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.CC(=[O:10])C>>[H:20][O+:10]=C(C)C.C(=O)(C(F)(F)F)[O-:21] 10=20;20,21=21
C[P:10](C)C.[C:21](Cl)(Cl)(Cl)[Cl:20]>>C[P+:10](C)(C)[Cl:20].[C-:21](Cl)(Cl)Cl 10=20;20,21=21
